US07687643B2
Step A—Preparation of 5-bromo-2-hydroxynicotinic Acid
A solution of sodium hypobromide was made by adding Br2 (1.01 ml, 39.5 mmol, 1.1 eq) slowly over a period of 5 min to NaOH (5N, 40 ml) that was previously cooled to 0° C. in an ice bath. The solution was stirred for 10 min before adding 2-hydroxynicotinic acid (5.0 g, 35.9 mmol) and placed in a 50° C. oil bath and stirred. Concurrently, a second pot of sodium hypobromide solution was made by slowly adding Br2 (1.01 ml, 39.5 mmol, 1.1 eq) to a NaOH solution (5N, 40 ml) in an ice bath. The second pot of sodium hypobromide was added to the solution of 2-hydroxynicotinic acid after 24 h of heating then was stirred for an additional 24 h. The solution was cooled to RT, placed in an ice bath and acidified with concentrated HCl while stirring. The precipitate which formed was filtered, washed and dried to afford the desired compound as an off-white solid.

reactant | sodium hypobromide | Br[O-].[Na+]
reactant | Br2 | 39.5 mmol, 1.01 ml, 1.1 eq | BrBr | Br2
reactant | 2-hydroxynicotinic acid | 35.9 mmol, 5.0 g | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | Br2 | 39.5 mmol, 1.01 ml, 1.1 eq | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | NaOH | 5N, 40 ml | [OH-].[Na+]
solvent | NaOH | 5N, 40 ml | [OH-].[Na+]
product | 5-bromo-2-hydroxynicotinic Acid | BrC=1C=NC(=C(C(=O)O)C1)O | C6H4BrNO3
